US05612351
(5R)-1-Azabicyclo[3.2.1]octan-6-one (-) camphorsulfonate
This compound was made in exactly the same manner as described in example 1 using (±) 1-azabicyclo[3.2.1]octan-6-one and (-) camphorsulfonic acid. M.p. 267°-268° C. (decomp.) [α]D =-48° (water).

reactant | (±) 1-azabicyclo[3.2.1]octan-6-one | N12CCCC(C(C1)=O)C2 | C7H11NO
reactant | (-) camphorsulfonic acid | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | water | O | H2O
product | (5R)-1-Azabicyclo[3.2.1]octan-6-one (-) camphorsulfonate | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O.N21CCC[C@@H](C(C2)=O)C1 | InChI=1S/C10H16O4S.C7H11NO/c1-9(2)7-3-4-10(9,8(11)5-7)6-15(12,13)14;9-7-5-8-3-1-2-6(7)4-8/h7H,3-6H2,1-2H3,(H,12,13,14);6H,1-5H2/t;6-/m.1/s1
